US03931196
1-Vinylphosphindole 1-oxide ##SPC14##
To a solution of 1-vinylphosphindoline 1-oxide (6.4g, 36.0 mmol) in carbon tetrachloride (80 ml) was added N-bromosuccinimide (6.8g, 38.6 mmol) and the two phase mixture stirred under reflux whilst being irradiated with a 500 watt mercury lamp. After 15 mins the solution was washed with water, the washings were extracted with chloroform and the combined organic extract was dried and evaporated to give a light yellow oil. A p.m.r. spectrum of this indicated that it was 3-bromo-1-vinylphosphindole 1-oxide. This material was heated under reflux with triethylamine (10 ml) for 5 mins, cooled, and the precipitated hydrobromide filtered off. The benzene filtrate was washed with water, dried and evaporated. Distillation gave an oil (5.8g, b.p. 170°/0.01 min), g.l.c. of which showed it to be about 90% pure.

reactant | N-bromosuccinimide | 38.6 mmol, 6.8g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-bromo-1-vinylphosphindole 1-oxide | BrC1=CP(C2=CC=CC=C12)(C=C)=O | C10H8BrOP
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | mercury | [Hg] | Hg
product | 1-Vinylphosphindole 1-oxide | C(=C)P1(C=CC2=CC=CC=C12)=O | C10H9OP
